* Model changed for LTspice
* E-sources replaced with G-sources.
* Unused V_V1 removed.
* Helmut Sennewald
*
*******************************
*Varistor PSpice Model Netlist*
*******************************
*
* © 	Harris Semiconductor
*	21st April 1998
*	version 3.1
*
* Representing typical characteristics for the following LA-Series varistors: 
*
* V130LA1	 V130LA2	 V130LA5	 V130LA10A	 V130LA20A	 V130LA20B
* V140LA2	 V140LA5	 V140LA10A	 V140LA20A
* V150LA1	 V150LA2	 V150LA5	 V150LA10A	 V150LA20A	 V150LA20B
* V175LA2	 V175LA5	 V175LA10A	 V175LA20A
* V230LA4	 V230LA10	 V230LA20A	 V230LA40A
* V250LA2	 V250LA4 	 V250LA10	 V250LA20A	 V250LA40A	 V250LA40B
* V275LA2 	 V275LA4	 V275LA10	 V275LA20A	 V275LA40A	 V275LA40B
* V300LA2	 V300LA4	 V300LA10	 V300LA20A	 V300LA40A
* V320LA7	 V320LA10	 V320LA20A	 V320LA40B
* V385LA7	 V385LA10	 V385LA20A	 V385LA40B
* V420LA7	 V420LA10	 V420LA20A	 V420LA40B
* V480LA7	 V480LA10	 V480LA40A	 V480LA80B
* V510LA10	 V510LA40A	 V510LA80B
* V575LA10	 V575LA40A	 V575LA80B
* V625AL10	 V625LA40A	 V625LA80B
* V660LA10	 V660LA50A	 V660LA100B
* V1000LA80A	 V1000LA160B
*
.SUBCKT MOV 1 2 PARAMS: T=1 C=1pF L=1nH a1=1 a2=0 a3=0 a4=0 a5=0 a6=100u a7=100u
G_non_lin 5 20 VALUE {T/a6*(
+ a1+a2*(log10(limit(v(4),a7,1g))-3)
+ +a3/limit(v(4)*.001,a7/1e3,1g)
+ +a4*exp(-log10(limit(v(4),a7,1g))+3)
+ +a5*exp(log10(limit(v(4),a7,1g))-3)
+ -(a1+a2*(log10(-limit(v(4),-1g,-a7))-3)
+ -a3/limit(v(4)*.001,-1g,-a7/1e3)
+ +a4*exp(-log10(-limit(v(4),-1g,-a7))+3)
+ +a5*exp(log10(-limit(v(4),-1g,-a7))-3))
+ +limit(v(4)/a7*v(8),-v(8),v(8)))}   
L_series 2 20 {L}   
H_H1 4 0 VH_H1 1k
VH_H1 5 1 0V
R_R2 0 4 1G  
R_series 5 20 {a6}  
*V_V1 3 7 0V
G_x_zero 0 8 VALUE {a1+a2*(log10(a7/1e3))+a3/(a7/1e3)
+ +a4*exp(-log10(a7/1e3))+a5*exp(log10(a7/1e3))}
R_x_zero 8 0 1
C_parallel 20 5 {C}
.ENDS
*
.SUBCKT V130LA1 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=180pF a1=269.3 a2=15.58 a3=-1.522e-5 a4=7.447E-2 a5=8.22 a6=65.2E-3
.ENDS
*
.SUBCKT V130LA2 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=180pF a1=251.5 a2=14.55 a3=-1.422e-5 a4=6.955E-2 a5=7.68 a6=60.9E-3
.ENDS
*
.SUBCKT V130LA5 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=450pF a1=257.1 a2=18.51 a3=-5.593e-5 a4=.1655 a5=3.839 a6=29.7E-3 a7=4E-4
.ENDS
*
.SUBCKT V130LA10A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1nF a1=248.4 a2=15.26 a3=-3.433e-5 a4=0.1078 a5=4.643 a6=7.345E-3 a7=4E-4
.ENDS
*
.SUBCKT V130LA20A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1.9nF a1=245.6 a2=13.53 a3=-3.912e-5 a4=39.94E-3 a5=3.576 a6=0.01458 a7=4E-4
.ENDS
*
.SUBCKT V130LA20B 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1.9nF a1=240.9 a2=13.27 a3=-3.836e-5 a4=39.17E-3 a5=3.506 a6=0.01429 a7=4E-4
.ENDS
*
.SUBCKT V140LA2 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=160pF a1=269.9 a2=15.61 a3=-1.526e-5 a4=7.464E-2 a5=8.24 a6=65.4E-3
.ENDS
*
.SUBCKT V140LA5 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=400pF a1=275.9 a2=19.86 a3=-6.002e-5 a4=.1777 a5=4.12 a6=31.87E-3 a7=4E-4
.ENDS
*
.SUBCKT V140LA10A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=900pF a1=266.6 a2=16.38 a3=-3.684e-5 a4=0.1157 a5=4.982 a6=7.883E-3 a7=4E-4
.ENDS
*
.SUBCKT V140LA20A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1.75nF a1=262.3 a2=14.45 a3=-4.177e-5 a4=42.66E-3 a5=3.819 a6=0.01557 a7=4E-4
.ENDS
*
.SUBCKT V150LA1 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=150pF a1=304.2 a2=17.6 a3=-1.72e-5 a4=8.414E-2 a5=9.29 a6=73.7E-3
.ENDS
*
.SUBCKT V150LA2 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=150pF a1=294.4 a2=17.03 a3=-1.665e-5 a4=8.142E-2 a5=8.99 a6=71.3E-3
.ENDS
*
.SUBCKT V150LA5 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=360pF a1=301 a2=21.67 a3=-6.548e-5 a4=.1938 a5=4.494 a6=34.77E-3 a7=4E-4
.ENDS
*
.SUBCKT V150LA10A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=800pF a1=290.8 a2=17.87 a3=-4.019e-5 a4=0.1262 a5=5.435 a6=8.599E-3 a7=4E-4
.ENDS
*
.SUBCKT V150LA20A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1.6nF a1=286.2 a2=15.76 a3=-4.557e-5 a4=46.53E-3 a5=4.166 a6=0.01698 a7=4E-4
.ENDS
*
.SUBCKT V150LA20B 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1.6nF a1=271.9 a2=14.97 a3=-4.329e-5 a4=44.21E-3 a5=3.958 a6=0.01613 a7=4E-4
.ENDS
*
.SUBCKT V175LA2 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=130pF a1=337.3 a2=19.52 a3=-1.907e-5 a4=9.33E-2 a5=10.3 a6=81.7E-3
.ENDS
*
.SUBCKT V175LA5 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=350pF a1=344.8 a2=24.83 a3=-7.503e-5 a4=.2221 a5=5.15 a6=39.84E-3 a7=4E-4
.ENDS
*
.SUBCKT V175LA10A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=700pF a1=333.2 a2=20.47 a3=-4.606e-5 a4=0.1446 a5=6.228 a6=9.854E-3 a7=4E-4
.ENDS
*
.SUBCKT V175LA20A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1.4nF a1=327.9 a2=18.06 a3=-5.222e-5 a4=53.32E-3 a5=4.773 a6=0.01946 a7=4E-4
.ENDS
*
.SUBCKT V230LA4 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=100pF a1=441.6 a2=25.55 a3=-2.497e-5 a4=1.221E-1 a5=13.48 a6=107E-3
.ENDS
*
.SUBCKT V230LA10 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=250pF a1=451.4 a2=32.5 a3=-9.822e-5 a4=.2907 a5=6.741 a6=52.16E-3 a7=4E-4
.ENDS
*
.SUBCKT V230LA20A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=550pF a1=436.3 a2=26.8 a3=-6.029e-5 a4=0.1894 a5=8.153 a6=12.9E-3 a7=4E-4
.ENDS
*
.SUBCKT V230LA40A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1.1nF a1=434.6 a2=23.55 a3=-3.898e-5 a4=-0.2066 a5=4.394 a6=0.02538 a7=4E-4
.ENDS
*
.SUBCKT V250LA2 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=90pF a1=507.8 a2=29.38 a3=-2.872e-5 a4=0.1405 a5=15.51 a6=0.123
.ENDS
*
.SUBCKT V250LA4 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=90pF a1=478.4 a2=27.68 a3=-2.705e-5 a4=0.1323 a5=14.61 a6=0.1159
.ENDS
*
.SUBCKT V250LA10 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=220pF a1=489.1 a2=35.21 a3=-1.064e-4 a4=.3149 a5=7.303 a6=56.5E-3 a7=4E-4
.ENDS
*
.SUBCKT V250LA20A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=500pF a1=472.6 a2=29.03 a3=-6.532e-5 a4=0.2051 a5=8.833 a6=13.97E-3 a7=4E-4
.ENDS
*
.SUBCKT V250LA40A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1nF a1=473.3 a2=25.65 a3=-4.244e-5 a4=-0.225 a5=4.785 a6=0.02764 a7=4E-4
.ENDS
*
.SUBCKT V250LA40B 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1nF a1=463.6 a2=25.12 a3=-4.157e-5 a4=-0.2204 a5=4.687 a6=0.02707 a7=4E-4
.ENDS
*
.SUBCKT V275LA2 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=80pF a1=554.4 a2=32.08 a3=-3.135e-5 a4=0.1533 a5=16.93 a6=0.1343
.ENDS
*
.SUBCKT V275LA4 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=80pF a1=527.5 a2=30.52 a3=-2.982e-5 a4=0.1459 a5=16.11 a6=0.1278
.ENDS
*
.SUBCKT V275LA10 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=200pF a1=539.2 a2=38.82 a3=-1.173e-4 a4=.3472 a5=8.052 a6=62.3E-3 a7=4E-4
.ENDS
*
.SUBCKT V275LA20A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=450pF a1=521.1 a2=32.01 a3=-7.201e-5 a4=0.2262 a5=9.738 a6=15.41E-3 a7=4E-4
.ENDS
*
.SUBCKT V275LA40A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=900pF a1=520.3 a2=28.2 a3=-4.666e-5 a4=-0.2474 a5=5.261 a6=0.03039 a7=4E-4
.ENDS
*
.SUBCKT V275LA40B 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=900pF a1=508.3 a2=27.54 a3=-4.558e-5 a4=-0.2416 a5=5.139 a6=0.02968 a7=4E-4
.ENDS
*
.SUBCKT V300LA2 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=70pF a1=604.7 a2=34.99 a3=-3.419e-5 a4=0.1673 a5=18.47 a6=0.1465
.ENDS
*
.SUBCKT V300LA4 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=70pF a1=576.5 a2=33.36 a3=-3.26e-5 a4=0.1594 a5=17.6 a6=0.1397
.ENDS
*
.SUBCKT V300LA10 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=180pF a1=589.4 a2=42.44 a3=-1.282e-4 a4=.3795 a5=8.801 a6=68.09E-3 a7=4E-4
.ENDS
*
.SUBCKT V300LA20A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=400pF a1=569.6 a2=34.99 a3=-7.871e-5 a4=0.2472 a5=10.64 a6=16.84E-3 a7=4E-4
.ENDS
*
.SUBCKT V300LA40A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=800pF a1=565 a2=30.62 a3=-5.067e-5 a4=-0.2686 a5=5.712 a6=0.033 a7=4E-4
.ENDS
*
.SUBCKT V320LA7 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=65pF a1=625.6 a2=36.19 a3=-3.537e-5 a4=0.173 a5=19.1 a6=0.1516
.ENDS
*
.SUBCKT V320LA10 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=170pF a1=639.5 a2=46.05 a3=-1.391e-4 a4=0.4118 a5=9.55 a6=73.89E-3 a7=4E-4
.ENDS
*
.SUBCKT V320LA20A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=380pF a1=618 a2=37.97 a3=-8.541e-5 a4=0.2682 a5=11.55 a6=18.27E-3 a7=4E-4
.ENDS
*
.SUBCKT V320LA40B 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=750pF a1=620.6 a2=33.63 a3=-5.565e-5 a4=-0.295 a5=6.274 a6=0.03624 a7=4E-4
.ENDS
*
.SUBCKT V385LA7 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=60pF a1=760.5 a2=44 a3=-4.3e-5 a4=0.2103 a5=23.22 a6=0.1843
.ENDS
*
.SUBCKT V385LA10 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=160pF a1=777.5 a2=55.98 a3=-1.692e-4 a4=.5007 a5=11.61 a6=89.82E-3 a7=4E-4
.ENDS
*
.SUBCKT V385LA20A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=360pF a1=751.3 a2=46.16 a3=-1.038e-4 a4=0.3261 a5=14.04 a6=22.22E-3 a7=4E-4
.ENDS
*
.SUBCKT V385LA40B 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=700pF a1=748.5 a2=40.56 a3=-6.713e-5 a4=-0.3559 a5=7.568 a6=0.04371 a7=4E-4
.ENDS
*
.SUBCKT V420LA7 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=55pF a1=834.1 a2=48.26 a3=-4.717e-5 a4=0.2307 a5=25.47 a6=0.2021
.ENDS
*
.SUBCKT V420LA10 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=140pF a1=852.7 a2=61.4 a3=-1.885e-4 a4=.5491 a5=12.73 a6=98.52E-3 a7=4E-4
.ENDS
*
.SUBCKT V420LA20A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=300pF a1=824 a2=50.62 a3=-1.139e-4 a4=0.3577 a5=15.4 a6=24.37E-3 a7=4E-4
.ENDS
*
.SUBCKT V420LA40B 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=600pF a1=819.8 a2=44.42 a3=-7.351e-5 a4=-0.3897 a5=8.288 a6=0.04787 a7=4E-4
.ENDS
*
.SUBCKT V480LA7 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=55pF a1=920 a2=53.23 a3=-5.202e-5 a4=0.2544 a5=28.09 a6=0.2229
.ENDS
*
.SUBCKT V480LA10 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=120pF a1=940.5 a2=67.72 a3=-2.046e-4 a4=.6056 a5=14.04 a6=0.1087 a7=4E-4
.ENDS
*
.SUBCKT V480LA40A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=270pF a1=908.9 a2=55.83 a3=-1.256e-4 a4=0.3945 a5=16.99 a6=26.87E-3 a7=4E-4
.ENDS
*
.SUBCKT V480LA80B 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=550pF a1=901.9 a2=48.87 a3=-8.088e-5 a4=-0.4288 a5=9.118 a6=0.05267 a7=4E-4
.ENDS
*
.SUBCKT V510LA10 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=100pF a1=1028 a2=74.04 a3=-2.237E-4 a4=.6622 a5=15.36 a6=0.1188 a7=4E-4
.ENDS
*
.SUBCKT V510LA40A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=250pF a1=993.7 a2=61.05 a3=-1.373e-4 a4=0.4313 a5=18.57 a6=29.38E-3 a7=4E-4
.ENDS
*
.SUBCKT V510LA80B 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=500pF a1=963.4 a2=52.21 a3=-8.64e-5 a4=-0.458 a5=9.74 a6=0.05626 a7=4E-4
.ENDS
*
.SUBCKT V575LA10 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=90pF a1=1129 a2=81.26 a3=-2.456e-4 a4=.7268 a5=16.85 a6=0.1304 a7=4E-4
.ENDS
*
.SUBCKT V575LA40A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=220pF a1=1091 a2=67 a3=-1.507e-4 a4=0.4734 a5=20.38 a6=32.25E-3 a7=4E-4
.ENDS
*
.SUBCKT V575LA80B 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=450pF a1=1066 a2=57.77 a3=-9.56e-5 a4=-0.5068 a5=10.78 a6=0.06226 a7=4E-4
.ENDS
*
.SUBCKT V625LA10 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=80pF a1=1254 a2=90.29 a3=-2.728e-4 a4=.8075 a5=18.73 a6=0.1449 a7=4E-4
.ENDS
*
.SUBCKT V625LA40A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=210pF a1=1212 a2=74.45 a3=-1.675e-4 a4=0.526 a5=22.65 a6=35.83E-3 a7=4E-4
.ENDS
*
.SUBCKT V625LA80B 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=425pF a1=1231 a2=66.73 a3=-1.104e-4 a4=-0.5855 a5=12.45 a6=0.07191 a7=4E-4
.ENDS
*
.SUBCKT V660LA10 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=70pF a1=1348 a2=97.06 a3=-2.933e-4 a4=0.8681 a5=20.13 a6=0.1557 a7=4E-4
.ENDS
*
.SUBCKT V660LA50A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=200pF a1=1303 a2=80.03 a3=-1.8e-4 a4=0.5654 a5=24.35 a6=38.52E-3 a7=4E-4
.ENDS
*
.SUBCKT V660LA100B 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=400pF a1=1231 a2=66.73 a3=-1.104e-4 a4=-0.5855 a5=12.45 a6=0.07191 a7=4E-4
.ENDS
*
.SUBCKT V1000LA80A 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=130pF a1=1957 a2=120.2 a3=-2.705e-4 a4=0.8494 a5=36.58 a6=57.87E-3 a7=4E-4
.ENDS
*
.SUBCKT V1000LA160B 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=250pF a1=1827 a2=98.99 a3=-1.638e-4 a4=-0.8684 a5=18.47 a6=0.1067 a7=4E-4
.ENDS
*


